US07517532B2
Step 3: 4-Acetyl-1-(4-fluorobenzyl)-3,4-dihydropyrazin-2(1H)-one
To a solution of methanesulfonic acid (314 g) in dichloromethane (10 L) at room temperature, a solution of N2-acetyl-N1-(2,2-dimethoxyethyl)-N1-(4-fluoro-benzyl)glycinamide (438 g, 1.07 mol) in dichloromethane (2 L) was added slowly over a period of 2 h. The reaction mixture was stirred at room temperature overnight and treated with saturated aqueous sodium carbonate (3 L). The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. To the residual oil, ethyl acetate (1 L) was added and stirred at room temperature. The solid precipitated was filtered to provide the title compound.

reactant | methanesulfonic acid | 314 g | CS(=O)(=O)O | CH4O3S
reactant | N2-acetyl-N1-(2,2-dimethoxyethyl)-N1-(4-fluoro-benzyl)glycinamide | 1.07 mol, 438 g | C(C)(=O)NCC(=O)N(CC1=CC=C(C=C1)F)CC(OC)OC | C15H21FN2O4
reactant | sodium carbonate | 3 L | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 L | ClCCl | CH2Cl2
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
product | 4-Acetyl-1-(4-fluorobenzyl)-3,4-dihydropyrazin-2(1H)-one | C(C)(=O)N1CC(N(C=C1)CC1=CC=C(C=C1)F)=O | C13H13FN2O2
